US06664271B1
The reaction was run in the same manner as ethyl 1-(3-thiophenecarbonyl)-3-piperidinecarboxylate, starting with 1-benzoyl-3-piperidine carboxylic acid (500 mg; 2.1 mmol) and commercially available n-butanol (500 μl; 5.5 mmol). The crude product was distilled at 225° C./0.1 torr, giving n-butyl 1-benzoyl-3-piperidinecarboxylate (258.2 mg) as a light yellow oil. MS m/z (positive ion) 312 (M+Na+; 75), 290 (NH+; 100).

reactant | ethyl 1-(3-thiophenecarbonyl)-3-piperidinecarboxylate | S1C=C(C=C1)C(=O)N1CC(CCC1)C(=O)OCC | C13H17NO3S
reactant | 1-benzoyl-3-piperidine carboxylic acid | 2.1 mmol, 500 mg | C(C1=CC=CC=C1)(=O)N1CC(CCC1)C(=O)O | C13H15NO3
reactant | n-butanol | 5.5 mmol, 500 μl | C(CCC)O | C4H10O
product | n-butyl 1-benzoyl-3-piperidinecarboxylate | 258.2 mg | C(C1=CC=CC=C1)(=O)N1CC(CCC1)C(=O)OCCCC | C17H23NO3
